US05264415
t-Butyl 2-(2-methoxyphenyl)-3-phenyl-2-[(1,2,4-triazol-1-yl)methyl]hexanoate
To a clear solution of 3-butyl-3-[(1,2,4-triazol-1-yl)methyl]-2(3H)-benzofuranone (5.0 g, 0.0184 mole) and dimethyl formamide (20 mL) in a 300 mL round bottom flask, potassium t-butoxide (6.2 g, 0.0553 mole) was added and the reaction mixture stirred at room temperature for 5 minutes before adding methyl iodide (3.2 g, 0.0221 m). The reaction mixture was stirred with heating at 40° C. for 1 hour and 1.0 g of water was added. The stirring was continued for an additional 2 hours at 40° C., before adding 100 mL of water and 100 mL of ethyl ether for work up. The organic phase was isolated and dried over magnesium sulfate, evaporated by rotary evaporator to afford 4.0 g of oily concentrate (yield 61%), Example 69 of Table 1.

reactant | 3-butyl-3-[(1,2,4-triazol-1-yl)methyl]-2(3H)-benzofuranone | 0.0184 mole, 5.0 g | C(CCC)C1(C(OC2=C1C=CC=C2)=O)CN2N=CN=C2 | C15H17N3O2
reactant | dimethyl formamide | 20 mL | CN(C=O)C | C3H7NO
reactant | potassium t-butoxide | 0.0553 mole, 6.2 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 3.2 g | CI | CH3I
solvent | ethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | water | 100 mL | O | H2O
solvent | water | 1.0 g | O | H2O
product | t-Butyl 2-(2-methoxyphenyl)-3-phenyl-2-[(1,2,4-triazol-1-yl)methyl]hexanoate | yield 61% | COC1=C(C=CC=C1)C(C(=O)OC(C)(C)C)(C(CCC)C1=CC=CC=C1)CN1N=CN=C1 | C26H33N3O3
